US07342030B2
Preparation of 2-[4-(4-bromo-benzenesulfonylmethyl)-oxazol-2-yl]-5-trifluoromethoxy-1H-indole
A solution of 2-(4-chloromethyl-oxazol-2-yl)-5-trifluoromethoxy-1H-indole (0.3 g, 0.95 mmol) and 4-bromo-benzenesulfinic acid sodium salt (0.92 g, 3.8 mmol) in N,N-dimethyl formamide (10 ml) was stirred for 16 h at 60° C. After cooling the mixture was poured on water (20 ml) and extracted with ethyl acetate (3×20 ml). The combined organic extracts were dried over sodium sulfate and concentrated in vacuo. Chromatography on silica gel (ethyl acetate/iso-hexanes 1:1) yielded the title compound as tan solid. Yield 0.28 g (59%)

reactant | 2-(4-chloromethyl-oxazol-2-yl)-5-trifluoromethoxy-1H-indole | 0.95 mmol, 0.3 g | ClCC=1N=C(OC1)C=1NC2=CC=C(C=C2C1)OC(F)(F)F | C13H8ClF3N2O2
reactant | 4-bromo-benzenesulfinic acid sodium salt | 3.8 mmol, 0.92 g | [Na+].BrC1=CC=C(C=C1)S(=O)[O-]
solvent | N,N-dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[4-(4-bromo-benzenesulfonylmethyl)-oxazol-2-yl]-5-trifluoromethoxy-1H-indole | BrC1=CC=C(C=C1)S(=O)(=O)CC=1N=C(OC1)C=1NC2=CC=C(C=C2C1)OC(F)(F)F | C19H12BrF3N2O4S
